US09108939B2
A flask was charged with palladium (II)acetate (1.486 mmol, 0.334 g), tert-butyl 4-(3-fluoro-4-nitrobenzylidene)piperidine-1-carboxylate (29.7 mmol, 10 g) and tetrahydrofuran (15 mL) and sealed and purged with nitrogen. A solution of potassium fluoride (59.5 mmol, 3.45 g, in 50 ml water) was added via a syringe. Polymethylhydrosiloxane (119 mmol, 7.13 mL) was added dropwise (caution, gas evolution) and the reaction stirred at room temperature for 1 hour. Diethyl ether (10 mL) was added to the reaction mixture. After 5 minutes of stirring the reaction mixture was filtered through celite and diluted with water and ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by silica column chromatography (eluent: 20%-50% ethyl acetate in heptane) to give the intermediate tert-butyl 4-(4-amino-3-fluorobenzyl)piperidine-1-carboxylate (9.23 g).

reactant | tert-butyl 4-(3-fluoro-4-nitrobenzylidene)piperidine-1-carboxylate | 29.7 mmol, 10 g | FC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C17H21FN2O4
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | potassium fluoride | 59.5 mmol, 50 ml, 3.45 g | [F-].[K+]
catalyst | palladium (II)acetate | 1.486 mmol, 0.334 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Diethyl ether | 10 mL | C(C)OCC | C4H10O
product | tert-butyl 4-(4-amino-3-fluorobenzyl)piperidine-1-carboxylate | 9.23 g | NC1=C(C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C17H25FN2O2
